********************************
* Copyright:                   *
* Vishay Intertechnology, Inc. *
********************************
*Sep 01, 2014
*ECN S14-1746, Rev. C
*File Name: SUP90P06-09L_PS.txt, SUP90P06-09L_PS.lib
*This document is intended as a SPICE modeling guideline and does not
*constitute a commercial product datasheet. Designers should refer to the
*appropriate datasheet of the same number for guaranteed specification
*limits.
.SUBCKT SUP90P06-09L 4 1 2
M1  3 1 2 2 PMOS W=16804728u L=0.25u
M2  2 1 2 4 NMOS W=16804728u L=0.45u
R1  4 3     RTEMP 3.4E-3
CGS 1 2     5800E-12
DBD 4 2     DBD
***************************************************************
.MODEL  PMOS       PMOS  ( LEVEL  = 3           TOX    = 5E-8
+ RS     = 3.5E-3          RD     = 0           NSUB   = 1.5E17
+ KP     = 4E-6            UO     = 400
+ VMAX   = 0               XJ     = 5E-7        KAPPA  = 5E-2
+ ETA    = 1E-4            TPG    = -1
+ IS     = 0               LD     = 0
+ CGSO   = 0               CGDO   = 0           CGBO   = 0
+ NFS    = 0.8E12          DELTA  = 0.1)
***************************************************************
.MODEL  NMOS       NMOS  ( LEVEL  = 3           TOX    = 5E-8
+NSUB    = 3.5E16          NFS    = 1E12        TPG    = -1)
***************************************************************
.MODEL DBD D (CJO=740E-12 VJ=0.38 M=0.35
+RS=0.1 FC=0.5 IS=1E-12 TT=6E-8 N=1 BV=60.2)
***************************************************************
.MODEL RTEMP RES (TC1=11E-3 TC2=5.5E-6)
***************************************************************
.ENDS
