.SUBCKT TIP125 1 2 3
* TERMINALS: C B E
* 60 Volt 5 Amp PNP Darlington Transistor 08-03-1995
Q1 1 2 4 QPWR .1
Q2 1 4 3 QPWR
R1 2 4 10K
R2 4 3 150
D1 1 3 DSUB
.MODEL QPWR PNP (IS=6P NF=1 BF=111 VAF=139 IKF=2.24 ISE=330P NE=2
+ BR=4 NR=1 VAR=20 IKR=3.36 RE=.33 RB=1.32 RC=.132 XTB=1.5
+ CJE=1.03N VJE=.74 MJE=.45 CJC=149P VJC=1.1 MJC=.24 TF=85.3N TR=3.68U)
.MODEL DSUB D (IS=6P N=1 RS=.33 BV=60 IBV=.001 CJO=149P TT=3.68U)
.ENDS
* TIP125, TEXAS INSTRUMENTS POWER PRODUCTS DATA BOOK, 1985.
