* Source File: lm2596adjblk.asc,lm2596fixblk.asc
* Developer: ETech (eetech00@yahoo.com)
* Created: Mar 16 2015
* Revision: Jul 29 2019
*
* This LM2596 spice behavioural model was tested
* with LTSpice. Temperature is not modelled.
*
* Texas Instruments
* LM2596 SIMPLE SWITCHER Power Converter 150 KHz 3A Step-Down Voltage Regulator
*
* LM2596-3.3 3.3V Fixed Regulator
.subckt LM2596_03 _ON/OFF FB IN OUT VGND
A2 ramp erramp 0 0 0 0 pwm 0 SCHMITT Vt=0 Vh=5m Td={TD} TRISE={TRISE} Vhigh={HIGH} VLow={LOW}
VIOUTN VGND outn 0
XX3 IN startup reg outn sense regblk params: TRISE={TRISE} VTSU={VTSU} VTRISE={VTRISE} HIGH={HIGH} LOW={LOW} Td={TD}
XX4 clk dutymax ramp startup oscdclimiterblk params: TRISE={TRISE} VTSU={VTSU} VTRISE={VTRISE} HIGH={HIGH} LOW={LOW} Td={TD}
XX5 pwm dutymax 0 ilimit 0 clk 0 0 0 0 NC_03 q latchblk params: TRISE={TRISE} VTSU={VTSU} VTRISE={VTRISE} HIGH={HIGH} LOW={LOW} Td={TD}
XX7 q sw OUT switcherblk
XX8 fbin outn erramp errampblk params: TRISE={TRISE} VTSU={VTSU} VTRISE={VTRISE} HIGH={HIGH} LOW={LOW} Td={TD}
V1 leb 0 PULSE(-2.5 2.5 {VTSU} {VTRISE} 1n 1k) Rser=0.001
XX1 _ON/OFF outn IN NC_04 startup startupblk4 params: TRISE={TRISE} VTSU={VTSU} VTRISE={VTRISE} HIGH={HIGH} LOW={LOW} Td={TD}
XX2 sense sw ilimit leb currentlimiterblk2 params: TRISE={TRISE} VTSU={VTSU} VTRISE={VTRISE} ILIMIT={ILIMIT} HIGH={HIGH} LOW={LOW} Td={TD}
R1 fbin VGND 2.5k
R2 FB fbin 4.2k
.param TD=8n
.param TRISE=1n
.param SDLOW=0.60
.param SDHIGH=1.30
.param HIGH=2.5
.param LOW=100m
.param VTINI=0
.param VTON=1
.param VTSU=0u
.param VTRISE=1u
.param SR=0.01
.param ILIMIT=4.5
.ends LM2596_03

* LM2596-5.0 5.0V Fixed Regulator
.subckt LM2596_05 _ON/OFF FB IN OUT VGND
A2 ramp erramp 0 0 0 0 pwm 0 SCHMITT Vt=0 Vh=5m Td={TD} TRISE={TRISE} Vhigh={HIGH} VLow={LOW}
VIOUTN VGND outn 0
XX3 IN startup reg outn sense regblk params: TRISE={TRISE} VTSU={VTSU} VTRISE={VTRISE} HIGH={HIGH} LOW={LOW} Td={TD}
XX4 clk dutymax ramp startup oscdclimiterblk params: TRISE={TRISE} VTSU={VTSU} VTRISE={VTRISE} HIGH={HIGH} LOW={LOW} Td={TD}
XX5 pwm dutymax 0 ilimit 0 clk 0 0 0 0 NC_03 q latchblk params: TRISE={TRISE} VTSU={VTSU} VTRISE={VTRISE} HIGH={HIGH} LOW={LOW} Td={TD}
XX7 q sw OUT switcherblk
XX8 fbin outn erramp errampblk params: TRISE={TRISE} VTSU={VTSU} VTRISE={VTRISE} HIGH={HIGH} LOW={LOW} Td={TD}
V1 leb 0 PULSE(-2.5 2.5 {VTSU} {VTRISE} 1n 1k) Rser=0.001
XX1 _ON/OFF outn IN NC_04 startup startupblk4 params: TRISE={TRISE} VTSU={VTSU} VTRISE={VTRISE} HIGH={HIGH} LOW={LOW} Td={TD}
XX2 sense sw ilimit leb currentlimiterblk2 params: TRISE={TRISE} VTSU={VTSU} VTRISE={VTRISE} ILIMIT={ILIMIT} HIGH={HIGH} LOW={LOW} Td={TD}
R1 fbin VGND 2.5k
R2 FB fbin 7.5k
.param TD=8n
.param TRISE=1n
.param SDLOW=0.60
.param SDHIGH=1.30
.param HIGH=2.5
.param LOW=100m
.param VTINI=0
.param VTON=1
.param VTSU=0u
.param VTRISE=1u
.param SR=0.01
.param ILIMIT=4.5
.ends LM2596_05

* LM2596-12 12V Fixed Regulator
.subckt LM2596_12 _ON/OFF FB IN OUT VGND
A2 ramp erramp 0 0 0 0 pwm 0 SCHMITT Vt=0 Vh=5m Td={TD} TRISE={TRISE} Vhigh={HIGH} VLow={LOW}
VIOUTN VGND outn 0
XX3 IN startup reg outn sense regblk params: TRISE={TRISE} VTSU={VTSU} VTRISE={VTRISE} HIGH={HIGH} LOW={LOW} Td={TD}
XX4 clk dutymax ramp startup oscdclimiterblk params: TRISE={TRISE} VTSU={VTSU} VTRISE={VTRISE} HIGH={HIGH} LOW={LOW} Td={TD}
XX5 pwm dutymax 0 ilimit 0 clk 0 0 0 0 NC_03 q latchblk params: TRISE={TRISE} VTSU={VTSU} VTRISE={VTRISE} HIGH={HIGH} LOW={LOW} Td={TD}
XX7 q sw OUT switcherblk
XX8 fbin outn erramp errampblk params: TRISE={TRISE} VTSU={VTSU} VTRISE={VTRISE} HIGH={HIGH} LOW={LOW} Td={TD}
V1 leb 0 PULSE(-2.5 2.5 {VTSU} {VTRISE} 1n 1k) Rser=0.001
XX1 _ON/OFF outn IN NC_04 startup startupblk4 params: TRISE={TRISE} VTSU={VTSU} VTRISE={VTRISE} HIGH={HIGH} LOW={LOW} Td={TD}
XX2 sense sw ilimit leb currentlimiterblk2 params: TRISE={TRISE} VTSU={VTSU} VTRISE={VTRISE} ILIMIT={ILIMIT} HIGH={HIGH} LOW={LOW} Td={TD}
R1 fbin VGND 2.5k
R2 FB fbin 21.8k
.param TD=8n
.param TRISE=1n
.param SDLOW=0.60
.param SDHIGH=1.30
.param HIGH=2.5
.param LOW=100m
.param VTINI=0
.param VTON=1
.param VTSU=0u
.param VTRISE=1u
.param SR=0.01
.param ILIMIT=4.5
.ends LM2596_12

* LM2596-ADJ Adjustable Regulator
.subckt LM2596_ADJ _ON/OFF FB IN OUT VGND
A2 ramp erramp 0 0 0 0 pwm 0 SCHMITT Vt=0 Vh=5m Td={TD} TRISE={TRISE} Vhigh={HIGH} VLow={LOW}
VIOUTN VGND outn 0
XX3 IN startup reg outn sense regblk params: TRISE={TRISE} VTSU={VTSU} VTRISE={VTRISE} HIGH={HIGH} LOW={LOW} Td={TD}
XX4 clk dutymax ramp startup oscdclimiterblk params: TRISE={TRISE} VTSU={VTSU} VTRISE={VTRISE} HIGH={HIGH} LOW={LOW} Td={TD}
XX5 pwm dutymax 0 ilimit 0 clk 0 0 0 0 NC_03 q latchblk params: TRISE={TRISE} VTSU={VTSU} VTRISE={VTRISE} HIGH={HIGH} LOW={LOW} Td={TD}
XX7 q sw OUT switcherblk
XX8 FB outn erramp errampblk params: TRISE={TRISE} VTSU={VTSU} VTRISE={VTRISE} HIGH={HIGH} LOW={LOW} Td={TD}
V1 leb 0 PULSE(-2.5 2.5 {VTSU} {VTRISE} 1n 1k) Rser=0.001
XX1 _ON/OFF outn IN NC_04 startup startupblk4 params: TRISE={TRISE} VTSU={VTSU} VTRISE={VTRISE} HIGH={HIGH} LOW={LOW} Td={TD}
XX2 sense sw ilimit leb currentlimiterblk2 params: TRISE={TRISE} VTSU={VTSU} VTRISE={VTRISE} ILIMIT={ILIMIT} HIGH={HIGH} LOW={LOW} Td={TD}
.param TD=8n
.param TRISE=1n
.param SDLOW=0.60
.param SDHIGH=1.30
.param HIGH=2.5
.param LOW=100m
.param VTINI=0
.param VTON=1
.param VTSU=0u
.param VTRISE=1u
.param SR=0.01
.param ILIMIT=4.5
.ends LM2596_ADJ

.subckt regblk in ena reg vgnd sw
S1 reg_out reg start 0 SW
V1 in input 0
B1 N001 0 V=V(1)*IF(V(i_in)<360uA,{LOW},{HIGH}) ic=0
C2 10 0 100p
R1 N001 10 100
A1 0 N001 0 ena 0 0 start 0 AND Td={TD} Trise={TRISE} VHigh={HIGH} VLow={LOW}
R2 ena 0 1e8
V2 1 0 PULSE({VTINI} {VTON} {VTSU} {VTRISE} 1n 1k)
G1 0 i_in input vgnd 1
R3 i_in 0 10k
V3 reg_out 0 PULSE(-2.5 2.5 {VTSU} {VTRISE} 1n 1k)
B2 input vgnd I=V(1)*85uA
R4 reg 0 1e8
S2 input sw start 0 SW
.model SW SW(Roff=1G Ron=.001 Vt=1.25 Vh=-10m)
.param TD=2n
.param TRISE=1n

.param HIGH=2.5
.param LOW=1u

.param VTINI=0
.param VTON=1
.param VTSU=0
.param VTRISE=1n
.param SR=0.01
.ends regblk

.subckt oscdclimiterblk clk dcmax ramp ena
VCLK clock 0 PULSE({LOW} {HIGH} 0 1N 1N 10N {PERIOD})
VRAMP sawtooth 0 PULSE({VV} {VP} 0 {PERIOD-2N} 1N 1N {PERIOD})
VDUTY maxdc 0 PULSE({LOW} {HIGH} {PERIOD*DUTYMAX} 1N 1N {(PERIOD-PERIOD*DUTYMAX)-2N} {PERIOD})
B1 clk 0 V=V(1)*if(V(ENA)>{HIGH}*0.5, V(clock),{LOW})
B2 ramp 0 V=V(1)*if(V(ENA)>{HIGH}*0.5, V(sawtooth),{LOW})
B3 dcmax 0 V=V(1)*if(V(ENA)>{HIGH}*0.5, V(maxdc),{LOW})
R1 clk 0 1e8
R2 ramp 0 1e8
R3 dcmax 0 1e8
V1 1 0 PULSE({VTINI} {VTON} {VTSU} {VTRISE} 1n 1k)
R4 ena 0 1e8
.param PERIOD=6.667u
.param RAMP=2.5
.param DUTYMAX=0.999
.param DUTYMIN=0.001
.param VP = {(LOW*DUTYMAX-HIGH*DUTYMIN+HIGH-LOW)/(DUTYMAX-DUTYMIN)}
.param VV = {(LOW-DUTYMIN*VP)/(1-DUTYMIN)}

.param TD=2n
.param TRISE=1n

.param HIGH=2.5
.param LOW=1u

.param VTINI=0
.param VTON=1
.param VTSU=0
.param VTRISE=1n
.param SR=0.01
.ends oscdclimiterblk

.subckt latchblk r1 r2 r3 r4 r5 s1 s2 s3 s4 s5 _q q
A2 r1 r2 r3 r4 r5 0 rst 0 OR Td={TD+1n} Trise={TRISE} VHigh={HIGH} VLow={LOW}
A3 s1 s2 s3 s4 s5 0 set 0 OR Td={TD} Trise={TRISE} VHigh={HIGH} VLow={LOW}
B1 q 0 V=V(1)*IF(V(q_out)>{HIGH}*0.5,{HIGH},-1V)
C1 10 0 10p
R1 q 10 100
B2 _q 0 V=V(1)*IF(V(_q_out)>{HIGH}*0.5,{HIGH},-1V)
C2 20 0 10p
R2 _q 20 100
R3 _q_out 0 1e8
R4 q_out 0 1e8
R5 r2 0 1e8
R6 r3 0 1e8
R7 r4 0 1e8
R8 r5 0 1e8
R9 r1 0 1e8
R10 s2 0 1e8
R11 s3 0 1e8
R12 s4 0 1e8
R13 s5 0 1e8
R14 s1 0 1e8
V2 1 0 PULSE({VTINI} {VTON} {VTSU} {VTRISE} 1n 1k)
A1 set rst 0 0 0 _q_out q_out 0 SRFLOP Td={TD} Trise={TRISE} VHigh={HIGH} VLow={LOW} IC=0
.param TD=2n
.param TRISE=1n

.param HIGH=2.5
.param LOW=1u

.param VTINI=0
.param VTON=1
.param VTSU=0
.param VTRISE=1n
.param SR=0.01
.ends latchblk

.subckt switcherblk pwm_in pwr_in output
Q1 pwr_in vb output 0 NP
E1 vce output pwm_in 0 1
R2 vce vb {Rb}
R3 vb output {Rbe}
R5 pwm_in 0 1e8
C1 vb vce 100p
.param Rb=55
.param Rbe=Rb*10
.param TD=2n
.param TRISE=1n

.param HIGH=2.5
.param LOW=1u

.param SUT=20u
.param SR=0.01
.MODEL NP npn
+IS=6.79633e-13 BF=253.337 NF=0.96553 VAF=10.1301
+IKF=10 ISE=1e-16 NE=1.00002 BR=100
+NR=0.966363 VAR=696.751 IKR=9.97557 ISC=5.11802e-15
+NC=1 RB=0.1 IRB=0.1 RBM=0.1
+RE=0.0286179 RC=0.32276665 XTB=1.37787 XTI=1.00005
+EG=1.206 CJE=6.91588e-10 VJE=0.602415 MJE=0.342146
+TF=3.63488e-10 XTF=1000 VTF=2211.72 ITF=69.0691
+CJC=1.43005e-10 VJC=0.697127 MJC=0.482949 XCJC=1
+FC=0.794695 CJS=0 VJS=0.75 MJS=0.5
+TR=3.18732e-08 PTF=0 KF=0 AF=1
.ends switcherblk

.subckt errampblk in+ in- errout
C1 errout 10 654.3p
R1 10 fb_abs 24570
C2 errout fb_abs 157.3p
B1 fb_abs 0 V=V(1)*abs(V(fb_eout))
V1 1 0 PULSE({VTINI} {VTON} {VTSU} {VTRISE} 1n 1k)
E1 fb_eout 0 in+ in- 1
R4 fb_eout 0 1E8
C3 in- in+ 1p Rser=10m
XX1 ref fb_abs errout 0 oa params: VH={HIGH} VL={LOW} GAIN=30000 POLE=1000 VTSU={VTSU} VTRISE={VTRISE} TRISE={TRISE}
B2 ref 0 V=V(1)*1.235V
B3 in+ in- I=V(1)*5nA
.param TD=2n
.param TRISE=1n

.param HIGH=2.5
.param LOW=1u

.param VTINI=0
.param VTON=1
.param VTSU=0
.param VTRISE=1n
.param SR=0.01
.ends errampblk

.subckt startupblk4 _ON/OFF vgnd in _startup startup
A3 onoff_ref Ref_2r5 0 0 0 0 C 0 SCHMITT Vt=0 Vh=2m Vhigh={HIGH} VLow={LOW} Trise={TRISE} Td={TD}
VONOFF _ON/OFF onoff 0
V1 1 0 PULSE({VTINI} {VTON} {VTSU} {VTRISE} 1n 1k)
B2 onoff_ref 0 V=V(1)*abs(V(onoff_eout))
C2 20 0 100p
R4 onoff_ref 20 100
E1 onoff_eout 0 onoff vgnd 1
R5 onoff_eout 0 1E8
R6 in 0 1e5
B3 _startup 0 V=V(1)*V(_stup)
C3 30 0 10p
R7 _startup 30 100
B4 startup 0 V=V(1)*V(stup)
C4 40 0 10p
R8 startup 40 100
R9 stup 0 1e8
R10 _stup 0 1e8
B5 Ref_2r5 0 V=V(1)*3.4V
A2 onoff_ref Ref_1r3 0 0 0 0 B 0 SCHMITT Vt=0 Vh=2m Vhigh={HIGH} VLow={LOW} Trise={TRISE} Td={TD}
B1 Ref_1r3 0 V=V(1)*1.3V
B7 _ON/OFF vgnd I=V(1)*iF(v(startup)<{HIGH}*0.5,15uA,5uA)
A1 onoff_ref Ref_0r6 0 0 0 0 A 0 SCHMITT Vt=0 Vh=2m Vhigh={HIGH} VLow={LOW} Trise={TRISE} Td={TD}
B6 Ref_0r6 0 V=V(1)*0.6V
A7 HIGH 0 _B S R _stup stup 0 DFLOP IC=0 Td={TD} Vhigh={HIGH} VLow={LOW} Trise={TRISE}
A6 C 0 0 0 0 0 R 0 BUF Td={TD} Vhigh={HIGH} VLow={LOW} Trise={TRISE}
A5 B 0 0 0 0 _B 0 0 BUF Td={TD} Vhigh={HIGH} VLow={LOW} Trise={TRISE}
V2 HIGH 0 PULSE({LOW} {HIGH} {VTSU} {VTRISE} 1n 1k)
A4 A 0 0 0 0 S 0 0 BUF Td={TD} Vhigh={HIGH} VLow={LOW} Trise={TRISE}
.param TD=2n
.param TRISE=1n

.param HIGH=2.5
.param LOW=1u

.param VTINI=0
.param VTON=1
.param VTSU=0
.param VTRISE=1n
.param SR=0.01
.ends startupblk4

.subckt currentlimiterblk2 in+ in- ilimit leb
A1 imax isense 0 0 0 icmp 0 0 SCHMITT Vt=0 Vh=2m Vhigh={HIGH} VLow={LOW} Trise={TRISE} Td={TD}
B1 isense 0 V=V(1)*IF(V(dly)>{HIGH}*0.5, abs(V(sense))/{Rsense},{LOW}) ic=0
B3 ilimit 0 V=V(1)*V(icmp) ic=0
C2 88 0 10p
R4 ilimit 88 100
V1 1 0 PULSE({VTINI} {VTON} {VTSU} {VTRISE} 1n 1k)
B2 imax 0 V=V(1)*{ILIMIT} ic=0
A2 LEB 0 0 0 0 0 N002 0 BUF Td={TDELAY} Trise={TRISE} VHigh={HIGH} VLow={LOW}
R1 dly 0 1e6
R2 N002 N001 {R}
C1 N001 0 {C}
A3 0 N001 0 LEB 0 0 dly 0 AND Td={TD} Trise={TRISE} VHigh={HIGH} VLow={LOW}
E1 sense 0 in+ in- 1
R3 sense 0 1e6
R5 in- in+ {Rsense}
.param TD=2n
.param TRISE=1n

.param HIGH=2.5
.param LOW=1u

.param VTINI=0
.param VTON=1
.param VTSU=0
.param VTRISE=1n
.param SR=0.01
.param Rsense=0.02
.param ILIMIT=4.5
.param TDELAY=1m
.param t=20n
.param C=1nF
.param R={t/(0.693*C)}
.ends currentlimiterblk2

.subckt oa 1 2 3 4
RP1 11 4 {GAIN/100u}
RIN 2 1 8MEG
D15 4 11 DCLAMP
CP1 11 4 {1/(6.28*(GAIN/100u)*POLE)}
D14 5A 13 DMOD
Q1 4 13 16 0 QPMOD
ISINK 13 4 PULSE(0 {ISINK} {VTSU} {VTRISE} 1n 1k)
ISRC 7 3 PULSE(0 {ISOURCE} {VTSU} {VTRISE} 1n 1k)
V4 3 16 PULSE(0 {VL} {VTSU} {VTRISE} 1n 1k) Rser={SR}
V1 7 4 PULSE(0 {VH} {VTSU} {VTRISE} 1n 1k) Rser={SR}
D12 3 7 DMOD
G1 4 11 1 2 100µ
E1 5 4 11 4 1
R9 5A 5 5
.MODEL QPMOD PNP()
.MODEL DCLAMP D (RS=10 BV={VH+0.06} IBV=10m)
.MODEL DMOD D (TT=1N CJO=10P)
.param ISINK=15m
.param ISOURCE=500u
.param VH=2.5
.param VL=100m
.param POLE=30
.param GAIN=31622
.param TD=2n
.param TRISE=1n

.param VTSU=20u
.param VTRISE=1u
.param SR=0.1
.ends oa

